US07208633B2
bis(2-naphthyl)phosphine-borane complex
Under an argon atmosphere, a solution of cerium chloride (8.66 g, 3.0 equivalents) in THF (80 mL) was stirred at room temperature (25° C.) for 30 min. Sodium borohydride (1.37 g, 3.1 equivalents) was added, and the mixture was stirred at room temperature for 1 hr. Then bis(2-naphthyl)phosphine oxide (3.54 g, 0.012 moL) synthesized in Reference Example 12 and lithium aluminum hydride (0.53 g, 1.2 equivalents) were successively added at 5° C. and the mixture was stirred at room temperature for 3 hrs. Toluene (80 mL) was added at 0° C. and then 3M-HCl (30 mL) was added. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the aqueous layer was extracted with toluene (40 mL). The combined organic layer was washed with 5% aqueous NaCl solution (20 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and the filtrate was concentrated under reduced pressure. Toluene (30 mL) and silica gel (10 g) were added to the residue and the mixture was stirred at room temperature for 10 min. The mixture was filtered by gravity, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from heptane to give the title compound (2.23 g, white crystals). yield 63.3%. melting point: 113.2° C.

reactant | cerium chloride | 8.66 g, 3.0 equivalents | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 1.37 g, 3.1 equivalents | [BH4-].[Na+]
reactant | bis(2-naphthyl)phosphine oxide | 3.54 g | C1=C(C=CC2=CC=CC=C12)P(C1=CC2=CC=CC=C2C=C1)=O | C20H15OP
reactant | lithium aluminum hydride | 0.53 g, 1.2 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | Toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | bis(2-naphthyl)phosphine borane | 2.23 g, yield 63.3% | C1=C(C=CC2=CC=CC=C12)PC1=CC2=CC=CC=C2C=C1.B | InChI=1S/C20H15P.BH3/c1-3-7-17-13-19(11-9-15(17)5-1)21-20-12-10-16-6-2-4-8-18(16)14-20;/h1-14,21H;1H3
